US04016281
2 g. of 4-p-chlorophenylpiperidin-4-ol are dissolved in 30 ml. of DMF. 4.05 g. of 2-dimethylaminomethyl-6,7-dimethoxy-1-tetralone methiodide, obtainable by reacting 6,7-dimethoxy-1-tetralone with dimethylamine and formaldehyde and quaternizing the product with CH3I, and 1 g. of Na2CO3 are added and the mixture is stirred for 4 hours at 20° under N2. After the customary work up, 2-(4-p-chlorophenyl-4-hydroxypiperidinomethyl-6,7-dimethoxy-1-tetralone is obtained. Hydrochloride, m.p. 227°-228°.

reactant | 4-p-chlorophenylpiperidin-4-ol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | 6,7-dimethoxy-1-tetralone | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
reactant | CH3I | CI | CH3I
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-p-chlorophenyl-4-hydroxypiperidinomethyl-6,7-dimethoxy-1-tetralone | ClC1=CC=C(C=C1)C1(CC(C(C2=CC(=C(C=C12)OC)OC)=O)CN1CCCCC1)O | C24H28ClNO4
